US04125726
6-(2-Chlorophenyl)-1,8-dichloro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid, methyl ester
A stirred mixture of 10 g (0.025 mole) of 8-chloro-6-(2-chlorophenyl)-1,2-dihydro-1-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid, methyl ester, 1 g (0.005 mole) of phosphorus pentachloride and 250 ml of phosphorus oxychloride was refluxed under a drying tube for 44 hrs. Benzene (250 ml) was added and the dark solution was evaporated in vacuo at 50°-60°. Another 250 ml of benzene was added and the solution was again evaporated to dryness at reduced pressure. The residue was dissolved in 250 ml of methylene chloride and cooled in an ice bath. Ammonia was bubbled into the cold solution for 5 min to give a tan solid. Stirring at room temperature was continued for 15 min. The mixture was filtered and evaporated at reduced pressure to give a brown gum which solidified when triturated with 75 ml of boiling ether. This solid was dissolved in about 50 ml of methylene chloride and filtered over neutral alumina. Eluted first with methylene chloride and then with 30% ethyl acetate in methylene chloride. Evaporation of the ethyl acetate methylene chloride fractions gave a tan solid which was recrystallized from ethyl acetate to give off-white prisms with mp 200°-202°. Uv λ sh 213 mμ (ε=44,600) infl 240 (27,500) infl 260 (20,000) infl 300 (1850) ir (CHCl3) 1717 cm-1 (COOCH3) .

reactant | 8-chloro-6-(2-chlorophenyl)-1,2-dihydro-1-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid, methyl ester | 0.025 mole, 10 g | ClC=1C=CC2=C(C(=NCC=3N2C(NC3C(=O)OC)=O)C3=C(C=CC=C3)Cl)C1 | C19H13Cl2N3O3
reactant | phosphorus pentachloride | 0.005 mole, 1 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | phosphorus oxychloride | 250 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | Benzene | 250 ml | C1=CC=CC=C1 | C6H6
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 6-(2-Chlorophenyl)-1,8-dichloro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid, methyl ester | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)Cl)C(=NC2C(=O)OC)Cl | C19H12Cl3N3O2
